### ISSUE TITLE
`rfl` runtime increases exponentially, causing `timeout at 'whnf'`

### ISSUE THREAD

**Issue by collares** [leanprover/lean4#2627]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Check that your issue is not already [filed](https://github.com/leanprover/lean4/issues).
    * Reduce the issue to a minimal, self-contained, reproducible test case. Avoid dependencies to mathlib4 or std4.

### Description

The following code times out with `timeout at 'whnf', maximum number of heartbeats (200000) has been reached`:

```lean
instance decidableBall {α} (p : α → Prop) [DecidablePred p] :
    ∀ l : List α, Decidable (∀ x, x ∈ l → p x)
  | [] => isTrue sorry
  | x :: xs =>
    match ‹DecidablePred p› x with
    | isTrue h₁ =>
      match decidableBall p xs with
      | isTrue h₂ => isTrue sorry
      | isFalse h₂ => isFalse sorry
    | isFalse h₁ => isFalse sorry

def pwFilter {α} (R : α → α → Prop) [DecidableRel R] (l : List α) : List α :=
  l.foldr (fun x IH => if ∀ y, y ∈ IH → R x y then x :: IH else IH) []

def dedup {α} [DecidableEq α] : List α → List α :=
  pwFilter (· ≠ ·)

example : dedup (List.replicate 11 0) = [0] := rfl
```

Removing the heartbeat limit, this takes roughly 10s on my machine according to `trace.profiler`. Increasing `11` to `12` in the above example increases the runtime by roughly 3x. Replacing `rfl` with `by rfl` makes it fast.

### Context

This is related to #2564, but is not fixed by #2612 (however, using the `decidableBall` implementation from the testcase in #2564 . It is a minimization of https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/What.20is.20the.20elaborator.20doing.20in.20this.20example.

@Kha said on Zulip that "[...] by rfl is fast, so it is not WHNF but the first-order approximation of defeq that's likely at fault here. I think the first question we should ask here is whether we simply want to ensure that term rfl benefits from all the optimizations tactic rfl has."

Apologies for the bad PR title, feel free to edit it to better reflect the underlying issue.

### Versions

Reproduces on 4.2.0-rc1, as well as on the toolchain from #2612 (`Lean (version 4.3.0, commit 5679ac44ad35, Release)`). Tested on x64 Linux (Linux 6.6.0-rc3, NixOS unstable).

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by collares** [comment]
I'm seeing similar timeouts with just

```lean
def dedup {α} [DecidableEq α] : List α → List α :=
List.foldr (fun x IH => if IH.all (· ≠ x) then x :: IH else IH) []

example : dedup (List.replicate 11 0) = [0] := rfl
```

so I guess a lot of the original example is a red herring.

**Comment by Junology** [comment]
I have observed a similar phenomenon. The code below also times out, and tactic `by rfl` resolves the error, too.
```lean
example : #[0,1,2,3,4,5,6,7,8,9,10,11,12,13,14,15].size = 16 :=
  rfl
/-
(deterministic) timeout at 'whnf', maximum number of heartbeats (200000) has been reached (use 'set_option maxHeartbeats <num>' to set the limit)
-/

example : #[0,1,2,3,4,5,6,7,8,9,10,11,12,13,14,15].size = 16 := by
  rfl   -- `rfl` tactic is OK
```
